US08071592B2
(d) cis-Phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-(hydroxymethyl)-1-piperidinecarboxylate
To cis-(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic acid (0.80 g; 2.0 mmol) in THF (20 ml) was added 1N BH3.THF in THF (6.0 ml; 6.0 mmol) and the reaction was allowed to stir at room temperature under N2 for 6 h. Excess borane was quenched by the addition of MeOH and the reaction was allowed to stir for 2 hours. The reaction was partitioned between EtOAc (150 ml) and water (25 ml) the layers were separated and the organic layer was washed with brine and dried with Na2SO4. The solvents were removed and the crude residue was purified by chromatography on silica gel using a 0-10% MeOH/DCM gradient to provide the desired compound (550 mg; 73%) as a colorless oil.

reactant | cis-(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic acid | 2.0 mmol, 0.80 g | CC(C)(C)[Si](O[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)O)(C)C | C20H31NO5Si
reactant | BH3.THF | 1N | B.C1CCOC1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 6.0 mmol, 6.0 ml | C1CCOC1 | C4H8O
product | cis-Phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-(hydroxymethyl)-1-piperidinecarboxylate | 550 mg, 73% | CC(C)(C)[Si](O[C@@H]1CN(C[C@@H](C1)CO)C(=O)OCC1=CC=CC=C1)(C)C | C20H33NO4Si
